US07268147B2
Preparation 63: Methyl-(4-{(2R)-2-[(2R)-2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)acetate
Methyl-{4-[(2R)-2-amino-propyl]phenyl}acetate (Preparation 64) (7.00 g, 33.8 mmol), [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol (Preparation 39) (15.2 g, 33.8 mmol) and diisopropylethylamine (4.36 g, 33.8 mmol) were heated in dimethylsulfoxide (50 ml) at 90° C. under nitrogen for 16 hours. The mixture was cooled and diluted with ethyl acetate (250 ml) and basified with 1M aqueous sodium hydroxide. The aqueous was extracted with ethyl acetate (250 ml) and the combined organics washed with brine (3×200 ml) and dried (magnesium sulfate). The crude material was purified by chromatography (90:10 dichloromethane:methanol) to furnish an orange coloured oil (9.86 g).

reactant | Methyl-{4-[(2R)-2-amino-propyl]phenyl}acetate | 33.8 mmol, 7.00 g | COC(CC1=CC=C(C=C1)C[C@@H](C)N)=O | C12H17NO2
reactant | [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol | 33.8 mmol, 15.2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)CO | C22H31BrO3Si
reactant | diisopropylethylamine | 33.8 mmol, 4.36 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | Methyl-(4-{(2R)-2-[(2R)-2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)acetate | 9.86 g | COC(CC1=CC=C(C=C1)C[C@@H](C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)=O | C34H47NO5Si
